US06090825
To a 250 mL 3-neck flask under n2 is added 8.00 g (26.1 mmol) of 1-Acetyl-piperidine-4-carboxylic acid [2-(4-fluoro-phenyl)-2-oxo-ethyl]amide, prepared as in Part A, to a 3:1 solution of EtOH:H2O (40 mL). While stirring the resultant solution at room temperature, 500 mg (5.95 mmol) of sodium bicarbonate is added followed by subsequent addition of 4.24 mL (52.23 mmol) of 37% formaldehyde over 5 min. The mixture is stirred for 1.5 h and then 20 mL of H2O is added. The reaction is cooled to -5° C. at which point a precipitate formed and is filtered. The mother liquor is again cooled to give a second crop of product and the combined lots are dried in-vacuo overnight at 65° C. to yield 1-Acetyl-piperidine-4-carboxylic acid [2-(4-fluoro-phenyl)-1-hydroxymethyl-2-oxo-ethyl]-amide as a white solid.

reactant | 1-Acetyl-piperidine-4-carboxylic acid [2-(4-fluoro-phenyl)-2-oxo-ethyl]amide | 26.1 mmol, 8.00 g | FC1=CC=C(C=C1)C(CNC(=O)C1CCN(CC1)C(C)=O)=O | C16H19FN2O3
reactant | EtOH | CCO | C2H6O
reactant | sodium bicarbonate | 5.95 mmol, 500 mg | C([O-])(O)=O.[Na+]
reactant | formaldehyde | 52.23 mmol, 4.24 mL | C=O | CH2O
solvent | H2O | 20 mL | O | H2O
solvent | H2O | 40 mL | O | H2O
product | 1-Acetyl-piperidine-4-carboxylic acid [2-(4-fluoro-phenyl)-1-hydroxymethyl-2-oxo-ethyl]-amide | FC1=CC=C(C=C1)C(C(CO)NC(=O)C1CCN(CC1)C(C)=O)=O | C17H21FN2O4
